US06518282B1
3-(Tetrahydro-3-furanyl)propionic Acid
To a solution of trans-3-furanacrylic acid (10 g, 72.4 mmol) in industrial methylated spirits (50 mL) was added 10% palladium on carbon (1.0 g) at room temperature. The reaction vessel was charged with hydrogen gas to a pressure of 345 kPa and stirred at room temperature for 16 hours. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give the title compound as a colourless oil.

reactant | trans-3-furanacrylic acid | 72.4 mmol, 10 g | O1C=C(C=C1)/C=C/C(=O)O | C7H6O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 3-(Tetrahydro-3-furanyl)propionic Acid | O1CC(CC1)CCC(=O)O | C7H12O3
